US06297239B1
Step A: Preparation of 2-(3-chlorophenoxy)-4-methyl-benzonitrile
To a solution of 2-fluoro-4-methylbenzonitrile (356mg, 3.96 mmol) and 3-chlorophenol (439 μL, 4.16 mmol) in 10 mL of DMSO was added Cs2CO3 (2.58 g, 7.92 mmol). The solution was heated at 80° C. for 4 h. The solution was diluted with EtOAc and was washed with Sat. NaHCO3 solution, water, and brine. The organics were dried (MgSO4), filtered, and concentrated in vacuo to give the title compound without further purification.

reactant | 2-fluoro-4-methylbenzonitrile | 3.96 mmol, 356mg | FC1=C(C#N)C=CC(=C1)C | C8H6FN
reactant | 3-chlorophenol | 4.16 mmol, 439 μL | ClC=1C=C(C=CC1)O | C6H5ClO
reactant | Cs2CO3 | 7.92 mmol, 2.58 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(3-chlorophenoxy)-4-methyl-benzonitrile | ClC=1C=C(OC2=C(C#N)C=CC(=C2)C)C=CC1 | C14H10ClNO
